US07151105B2
Step 1: 4-Bromo-2-ethyl-benzoic acid methyl ester
To a solution of 4-bromo-2-ethyl-benzoic acid (1.35 g, 5.89 mmol) in MeOH (40 mL) was added H2SO4 (1 drop). The mixture was stirred at 90° C. for 48 hours, at which time the volatiles were removed in vacuo. The residue was dissolved in Et2O, washed with satd NaHCO3 and brine, dried over MgSO4, and concentrated to a clear oil (1.01 g, 70%).

reactant | 4-bromo-2-ethyl-benzoic acid | 5.89 mmol, 1.35 g | BrC1=CC(=C(C(=O)O)C=C1)CC | C9H9BrO2
reactant | MeOH | 40 mL | CO | CH4O
catalyst | H2SO4 | 1 drop | OS(=O)(=O)O | H2O4S
product | 4-Bromo-2-ethyl-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)Br)CC)=O | C10H11BrO2
